US06448242B1
After 1-benzyl-4-piperidone (5.00 g; 26 mmol) and sodium cyanoborohydride (1.25 g; 20 mmol) were added to a solution of N,N′-dimethylethylenediamine (785 mg; 8.9 mmol) in methanol (20 ml) under ice cooling. The ice bath was removed, and acetic acid (2.5 ml; 44 mmol) was added to the solution, and the mixture was stirred for 15 minutes. Potassium carbonate (3 g; 22 mmol) and a saturated aqueous solution of sodium hydrogencarbonate was added to the reaction mixture to conduct extraction with chloroform. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil was purified by column chromatography on silica gel, thereby obtaining 955 mg (yield: 25%) of N,N′-bis(1-benzyl-4-piperidinyl)-N,N′-dimethylethylenediamine as a colorless oil.

reactant | 1-benzyl-4-piperidone | 26 mmol, 5.00 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | sodium cyanoborohydride | 20 mmol, 1.25 g | C(#N)[BH3-].[Na+]
reactant | N,N′-dimethylethylenediamine | 8.9 mmol, 785 mg | CNCCNC | C4H12N2
reactant | acetic acid | 44 mmol, 2.5 ml | C(C)(=O)O | C2H4O2
reactant | Potassium carbonate | 22 mmol, 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | N,N′-bis(1-benzyl-4-piperidinyl)-N,N′-dimethylethylenediamine | 955 mg, yield: 25% | C(C1=CC=CC=C1)N1CCC(CC1)N(CCN(C)C1CCN(CC1)CC1=CC=CC=C1)C | C28H42N4
